US03957851
15 g of 1-phenyl-2-hydroxy-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester and 15 cc. of thionyl chloride and 1 cc. of dimethylformamide are heated under reflux for 10 minutes. Then direct distillation is done. 12.2 g of 1-phenyl-2-chloro-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester of the boiling point 0.1/122°-5°C are obtained. By reacting with 12 g of β-phenylethyl amine in 100 cc. of DMSO for 2 hrs. at 100°C, processing as described above, 6.0 g of hydrochloride m.p. 179°-82°C are obtained.

reactant | 1-phenyl-2-hydroxy-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester | 15 g | C(C)OC(=O)C1(C(C=CCC1)O)C1=CC=CC=C1 | C15H18O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-phenyl-2-chloro-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester | 12.2 g | C(C)OC(=O)C1(C(C=CCC1)Cl)C1=CC=CC=C1 | C15H17ClO2
